2164-10-17 07:12:00 Physician Resident Progress Note
Chief Complaint: GI bleed, hypotension
   24 Hour Events:
   continued to have freq episodes melena
   started neo gtt for MAP 30-40s, weaned off prior to RBC scan
   transplant surgery & IR consulted
   transfused 11U PRBC (+2 prior to arrival at [**Hospital1 5**]), 4 U FFP
   tagged RBC scan showed focal site of bleeding in proximal duodenum, IR
   consulted for possible angiography
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-10-17**] 04:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No dizziness, lightheadedness, chest pain, palpitations, shortness of
   breath, abdominal pain, nausea, vomiting.
   Flowsheet Data as of  [**2164-10-17**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 121 (87 - 121) bpm
   BP: 91/57(65) {64/27(33) - 132/75(85)} mmHg
   RR: 23 (16 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
    CVP: 7 (2 - 11)mmHg
   Total In:
                                                                  6,819 mL
                                                                  1,916 mL
   PO:
   TF:
   IVF:
                                                                  4,273 mL
                                                                    313 mL
   Blood products:
                                                                  2,546 mL
                                                                  1,603 mL
   Total out:
                                                                  1,830 mL
                                                                    400 mL
   Urine:
                                                                    330 mL
                                                                    100 mL
   NG:
   Stool:
                                                                  1,500 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                  4,989 mL
                                                                  1,516 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 100%
   VBG:7.29/21/89/10
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: icteric sclera
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   84 K/uL
   11.6 g/dL
   146 mg/dL
   1.2 mg/dL
   10 mEq/L
   4.9 mEq/L
   37 mg/dL
   123 mEq/L
   140 mEq/L
   31.6 %
   17.1 K/uL
        [image002.jpg]
                            [**2164-10-16**]  08:46 PM
                            [**2164-10-16**]  11:31 PM
                            [**2164-10-17**]  04:17 AM
                            [**2164-10-17**]  06:12 AM
   WBC
   17.1
   Hct
   25.0
   22.2
   34.0
   31.6
   Plt
   84
   Cr
   1.2
   Glucose
   146
   Other labs: PT / PTT / INR:18.1/45.8/1.6, Differential-Neuts:81.6 %,
   Lymph:12.9 %, Mono:4.5 %, Eos:0.4 %, Lactic Acid:2.3 mmol/L, Ca++:6.2
   mg/dL, Mg++:1.4 mg/dL, PO4:4.2 mg/dL
   [**2164-10-16**] RUQ U/S
   1. Partially occluded portal vein thrombosis which is new when compared
   to
   prior exam.
   2. Cirrhotic-appearing liver with ascites.
   3. Patent umbilical vein.
   4. Splenomegaly.
   5. Gallbladder sludge and wall thickening likely due to chronic liver
   disease. No evidence of acute cholecystitis.
   6. No intrahepatic or extrahepatic biliary dilatation.
   Assessment and Plan
   52M with ETOH cirrhosis complicated by esophageal and rectal varices
   with prior episodes of bleeding admitted with painless BRBPR with an
   unrevealing EGD, followed by recurrent melena and hypotension.
   #UGIB
 currently hemodynamically stable s/p aggressive resuscitation
   with blood products; required pressors for only 2 hrs; bleeding source
   localized to proximal duodenum by tagged RBC scan.  Patient was
   rescoped this AM, no interventions found.
   -IR for embolization
   -appreciate liver recs
   -appreciate transplant surgery recs, may require surgery if IR unable
   to contain
   -serial HCT, coags
   -active T&S, x-fuse to Hct 30%, massive transfusion protocol with 1
   prbc:1 ffp, transfuse plt for ct <50
   -octreotide gtt
   -protonix gtt
   -ceftriaxone for SBP ppx
   -hold BB, diuretics
   -neo gtt if MAP <65, add vasopressin if 2^nd pressor needed
   -central & peripheral access obtained
   .
   #Partial portal vein thrombosis
   -hold anticoagulation given active bleeding
   .
   #Non-gap metabolic acidosis - unclear etiology, most likely represents
   aggressive fluid resuscitation.  Venous pH is 7.29.  ?GI losses in the
   setting of massive GIB; could represent RTA but new phenomenon and no
   underlying renal insufficiency; lactate WNL, no ketonuria, or serum
   salicylates (although no gap, as above)
   -cont monitor with fluid resuscitation
   .
   #FEN: NPO, replete lytes
   .
   #PPX: PPI IV gtt, pneumoboots
   .
   #ACCESS: L IJ triple-lumen CVL, 18 g R EJ, 18 g R AC, 20 g L AC
   .
   #CODE: Full code
   .
   #CONTACT: [**First Name8 (NamePattern2) 189**] [**Name (NI) 2226**] [**Name (NI) 9395**], wife, [**Telephone/Fax (1) 9396**]
   .
   # DISPO: ICU
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-10-16**] 05:09 PM
   Multi Lumen - [**2164-10-16**] 09:19 PM
   Prophylaxis:
   DVT: PPI gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU